US03976695
6-Chloroveratraldehyde is treated with boron tribromide as described in Example 4 to give 6-chloroprotocatechualdehyde as a white solid, m.p. 217°-218°C. which is dibenzylated to give 6-chloro-3,4-dibenzyloxybenzaldehyde, m.p. 100°-102°C.

reactant | 6-Chloroveratraldehyde | ClC1=CC(=C(C=C1C=O)OC)OC | C9H9ClO3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | 6-chloroprotocatechualdehyde | ClC1=CC(=C(C=C1C=O)O)O | C7H5ClO3
